US07011838B2
Using 0.50 g of (4-(trifluoromethyl)benzyl)malononitrile, 6 ml of N,N-dimethylformamide, 98 mg of sodium hydride (60% in oil), and 0.46 g of 4-bromo-1,1,2-trifluoro-1-butene, and according to the process described in the Production Example 1, there was obtained 0.16 g of 2-(3,4,4-trifluoro-3-butenyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (73)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 0.50 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 98 mg | [H-].[Na+]
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.46 g | BrCCC(=C(F)F)F | C4H4BrF3
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(3,4,4-trifluoro-3-butenyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.16 g, Yield: 21% | FC(CCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F)=C(F)F | C15H10F6N2
